US09284284B2
a) 5-Bromo-3-methyl-pyridine-2-carboxylic acid amide
5-Bromo-3-methyl-pyridine-2-carboxylic acid ethyl ester (2.44 g, 10 mmol) was dissolved in NH3/MeOH (50 ml) and heated to reflux for 3 days. The reaction mixture was concentrated to give the desired product as a pink solid (2.05 g, 9.6 mmol).

reactant | 5-Bromo-3-methyl-pyridine-2-carboxylic acid ethyl ester | 10 mmol, 2.44 g | C(C)OC(=O)C1=NC=C(C=C1C)Br | C9H10BrNO2
reactant | NH3 MeOH | 50 ml | N.CO
product | 5-Bromo-3-methyl-pyridine-2-carboxylic acid amide | 9.6 mmol, 2.05 g | BrC=1C=C(C(=NC1)C(=O)N)C | C7H7BrN2O
